US08071776B2
3-Amino-5-chloro-6-ethoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
Sodium hydride (0.037 g, 0.925 mmol) is suspended in anhydrous 1,2-dimethoxy-ethane (5.0 ml) under nitrogen. The suspension is cooled to 0° C. To this cold suspension is added via cannula a solution of 3-amino-5-chloro-6-hydroxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (0.300 g, 1.01 mmol) in anhydrous DMF (5.0 ml). The ice bath is removed, and the reaction is warmed to room temperature. After the reaction is stirred 25 minutes at room temperature, lithium bromide (0.175 g, 2.02 mmol) is added as a solid, and the reaction is stirred for an additional two hours. Finally, ethyl iodide is added (0.24 ml, 0.47 g, 3.00 mmol), and the reaction is stirred for 36 hours at room temperature. At the completion of the reaction time, the mixture is quenched with water. The solid is collected by filtration, then purified by flash chromatography (hexanes:EtOAc gradient) to give the title compound as a white solid (24.3 mg, 8% yield). Mass (m/z): 326.0 (M+), 324.0 (M−).

reactant | Sodium hydride | 0.925 mmol, 0.037 g | [H-].[Na+]
reactant | 3-amino-5-chloro-6-hydroxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 1.01 mmol, 0.300 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)O)S1)N | C12H12ClN3O2S
reactant | lithium bromide | 2.02 mmol, 0.175 g | [Br-].[Li+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | 1,2-dimethoxy-ethane | 5.0 ml | COCCOC | C4H10O2
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 3-Amino-5-chloro-6-ethoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 24.3 mg, 8% yield | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCC)S1)N | C14H16ClN3O2S
